US08314087B2
4-(2-(2-Fluoro-5-(4-methylthiophen-2-yl)pyridin-3-yl)ethoxy)-7-methoxyquinoline
To a 5 mL CEM microwave tube was added 2-(2-fluoro-5-(4-methylthiophen-2-yl)pyridin-3-yl)ethanol (0.06 g, 0.3 mmol), 4-chloro-7-methoxyquinoline (0.10 g, 0.5 mmol), racemic-2-(di-t-butylphosphino)-1,1′-binaphthyl (0.04 g, 0.1 mmol), palladium (II) acetate (0.02 g, 0.1 mmol), cesium carbonate (0.2 g, 0.5 mmol), and toluene (4 mL). The vial was sealed and heated at 80° C. in the closed system for 3 h. The reaction mixture was passed through the celite to separate the inorganic salt. Solvent was removed. The crude product was purified using SiO2 chromatography with CH2Cl2:MeOH (98%:2%) to afford the product as brown solid. MS (ESI pos. ion) m/z (MH+): 395.3. Calc'd exact mass for C22H19FN2O2S: 394.1. 1H NMR (300 MHz, Chloroform-d) δ ppm 2.30 (s, 3 H) 3.31 (t, J=6.21 Hz, 2 H) 3.94 (s, 3 H) 4.46 (t, J=6.21 Hz, 2 H) 6.65 (d, J=5.41 Hz, 1 H) 6.94 (s, 1 H) 7.07 (s, 1 H) 7.12 (dd, J=9.13, 2.56 Hz, 1 H) 7.36 (d, J=2.48 Hz, 1 H) 7.95 (dd, J=8.99, 2.41 Hz, 1 H) 8.05 (d, J=9.06 Hz, 1 H) 8.33 (s, 1 H) 8.67 (d, J=5.26 Hz, 1 H).

reactant | 2-(2-fluoro-5-(4-methylthiophen-2-yl)pyridin-3-yl)ethanol | 0.3 mmol, 0.06 g | FC1=NC=C(C=C1CCO)C=1SC=C(C1)C | C12H12FNOS
reactant | 4-chloro-7-methoxyquinoline | 0.5 mmol, 0.10 g | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
reactant | racemic-2-(di-t-butylphosphino)-1,1′-binaphthyl | 0.1 mmol, 0.04 g | C(C)(C)(C)P(C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12)C(C)(C)C | C28H31P
reactant | cesium carbonate | 0.5 mmol, 0.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium (II) acetate | 0.1 mmol, 0.02 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2-(2-Fluoro-5-(4-methylthiophen-2-yl)pyridin-3-yl)ethoxy)-7-methoxyquinoline | FC1=NC=C(C=C1CCOC1=CC=NC2=CC(=CC=C12)OC)C=1SC=C(C1)C | C22H19FN2O2S
